.title 
VS N_1 0 1V
R1 N_1 0 1kOhm
V2 N_2 0 DC 0V PULSE(0V 5V 0s 0s 0s 1ms 2ms)
R2 N_2 N_3 1kOhm
C1 N_3 0 1uF
V3 N_4 0 DC 0V PULSE(0V 5V 0s 0s 0s 1ms 2ms)
R3 N_4 N_5 1kOhm
C2 N_5 0 1uF
